US08138176B2
a) 4-(5-Methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenyl trifluoromethanesulphonate
2.2 mmol of N-phenylbis(trifluoromethanesulphonimide) and 2.5 mmol of triethylamine are added to a solution of 2 mmol of 4-(5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenol in 20 ml of dichloromethane under argon. The reaction solution is stirred at room temperature for 18 hours and then evaporated to dryness. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60 F).

reactant | N-phenylbis(trifluoromethanesulphonimide) | 2.2 mmol | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 2.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-(5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenol | 2 mmol | CC1(N2C(COC1)=CN=C2)C2=CC=C(C=C2)O | C13H14N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(5-Methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CC=C(C=C1)C1(N2C(COC1)=CN=C2)C)(F)F | C14H13F3N2O4S
